US05244890
To a solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylic acid trifluoroacetate (syn isomer) (1.0 g) in N,N-dimethylformamide (10 ml) was added 2-(N,N-dimethylamino)methyl-5-hydroxy-4pyridone (1.09 g). After being stirred for 5 hours at ambient temperature, the mixture was poured into ethyl acetate (150 ml). The resulting precipitate was collected by filtration, washed with ethyl acetate and dried under reduced pressure. The precipitate was suspended in water (50 ml) at pH 2.0 and stirred for 30 minutes. After removal of insoluble material, the aqueous solution was subjected to column chromatography on Diaion HP-20. The column was washed with water and the elution was carried out with 30% aqueous methanol. The fractions containing desired product was combined and methanol was evaporated in vacuo. The resulting aqueous layer was lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate (syn isomer) (0.30 g) as a powder.

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-chloromethyl-3-cephem-4-carboxylic acid trifluoroacetate | 1.0 g | FC(C(=O)O)(F)F.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O)=NOC(C)(C)C(=O)O
reactant | 2-(N,N-dimethylamino)methyl-5-hydroxy-4pyridone | 1.09 g | CN(C)CC1=NC=C(C(C1)=O)O | C8H12N2O2
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate | 0.30 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)O | C24H28N8O9S2
